data/oMe_Silver.jsonl
{"reaction_id": "NR-214_1-C(C)(C)C","level": "medium","name": "Payne Rearrangement","reactants_smiles": ["C12C(CCCC1(C(C)(C)C)O)O2"],"products_smiles": ["C12C(CCCC1(C(C)(C)C)O2)O"],"conditions": "Acid-catalyzed","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C12C(CCCC1(C(C)(C)C)O)[OH+]2","step_weight": 0,"rationale": "Protonation of the epoxide oxygen by acid increases the electrophilicity of the adjacent carbons through inductive withdrawal, making them more susceptible to nucleophilic attack."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C12C(CCCC1(C(C)(C)C)[OH+]2)O","step_weight": 0,"rationale": "The neighboring hydroxyl oxygen attacks the more substituted, proton-activated epoxide carbon, driven by intramolecular proximity and relief of ring strain, forming a new epoxide ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C12C(CCCC1(C(C)(C)C)O2)O","step_weight": 0,"rationale": "Deprotonation restores the neutral epoxy alcohol, favored by the stability of the product and removal of positive charge under acidic equilibrium conditions."}],"description": "Under acidic conditions, the epoxide oxygen is protonated to increase electrophilicity. The adjacent hydroxyl group then intramolecularly attacks, opening the ring and forming a new epoxide via rearrangement. Final deprotonation restores neutrality, yielding the rearranged epoxy alcohol."}
{"reaction_id": "NR-113_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C_3-C(F)(F)F_4-CCCC(C)C_5-c1ccccc1","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)#[N+][O-]","C/C(C(F)(F)F)=C(/CCCC(C)C)c1ccccc1"],"products_smiles": ["C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=NOC(CCCC(C)C)(c1ccccc1)C1(C)(C(F)(F)F)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=NOC(CCCC(C)C)(c1ccccc1)C1(C)(C(F)(F)F)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
{"reaction_id": "NR-118_1-c1c(C)cccc1C_2-C(c1ccccc1)c2ccccc2_3-C_4-C(F)(F)F_5-C_6-CC","name": "Johnson-Corey-Chaykovsky Reaction","level": "medium","reactants_smiles": ["C([H])(C)(C(F)(F)F)[S+](c1c(C)cccc1C)(C(c1ccccc1)c2ccccc2)","C(=O)(C)(CC)"],"products_smiles": ["C1(C)(C(F)(F)F)OC1(C)(CC)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C)(C(F)(F)F)[S+](c1c(C)cccc1C)(C(c1ccccc1)c2ccccc2)","rationale": "The base abstracts the acidic α-proton adjacent to the positively charged sulfur, as the resulting carbanion is stabilized by the adjacent sulfonium through inductive and resonance effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-]C(C)(CC)C(C)(C(F)(F)F)[S+](c1c(C)cccc1C)(C(c1ccccc1)c2ccccc2)","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, driven by the strong polarization of the C=O bond and stabilization of the resulting alkoxide by solvation under basic conditions."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(C)(C(F)(F)F)OC1(C)(CC)","rationale": "The alkoxide oxygen intramolecularly attacks the adjacent carbon bearing the sulfonium, as the sulfonium is an excellent leaving group, facilitating ring closure to the strained but thermodynamically favorable epoxide."}],"description": "Under basic conditions, the sulfonium ylide is generated by deprotonation, enabling nucleophilic attack on the carbonyl to form a betaine intermediate. Intramolecular cyclization via displacement of the sulfonium group yields the epoxide product with retention of substituent patterns."}
